US06800654B2
{[1-Bromo-6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetic acid methyl ester
The title compound was prepared as a solid (0.410 g, 58%) from 2-(5-bromo--6-hydroxy-2-naphthyl)-3-pentyl-1H-indole using methyl bromoacetate and the procedure from step 3 of Example 2; 1H NMR (DMSO-d6) δ 0.82 (t, J=7.0 Hz, 3H), 1.27-1.39 (m, 4H), 1.64-1.74 (m, 2H), 2.93 (t, J=7.3 Hz, 2H), 3.73 (s, 3H), 5.12 (s, 2H), 7.02 (t, J=7.5 Hz, 1H), 7.12 (t, J=7.0 Hz, 1H), 7.38 (d, J=8.0 Hz, 1H), 7.48 (d, J=9.2 Hz, 1H),7.57 (d, J=7.9 Hz, 1H), 7.93 (d, J=7.9 Hz, 1H), 8.03 (d, J=9.0 Hz, 1H), 8.14 (d, J=1.6 Hz, 1H), 8.22 (d, J=8.9 Hz, 1H), 11.26 (s, 1H); mass spectrum [(+) ESI], m/z 480/482 (M+H)+ and [(−) ESI], m/z 478/480 (M−H)−.

reactant | 2-(5-bromo--6-hydroxy-2-naphthyl)-3-pentyl-1H-indole | BrC1=C2C=CC(=CC2=CC=C1O)C=1NC2=CC=CC=C2C1CCCCC | C23H22BrNO
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | {[1-Bromo-6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetic acid methyl ester | COC(COC1=C(C2=CC=C(C=C2C=C1)C=1NC2=CC=CC=C2C1CCCCC)Br)=O | C26H26BrNO3
